Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
ROBOTIC-ASSISTED TOTAL LAPAROSCOPIC HYSTERECTOMY, BILATERAL 
SALPINGO-OOPHORECTOMY, BILATERAL PELVIC SENTINEL LYMPH NODE 
BIOPSIES

 
History of Present Illness:
___ episode of postmenopausal bleeding in ___. 
She underwent a
pelvic ultrasound at that time which demonstrated a 15 mm 
endometrium with cystic components and vascularity. She 
underwent a repeat pelvic ultrasound in ___. The 
endometrium appeared thickened with cystic spaces and a large 
amount of vascularity.  The  endometrial thickness measures 18 
mm.  In addition, there is loss of the  myometrial/endometrial 
interface anteriorly to the left of the cavity which was 
"concerning for invasion". 

The patient denies any symptoms from these findings.  
Specifically, she denies any increasing abdominal girth, early 
satiety, unintentional weight loss, or change in bowel or 
bladder function.  She has baseline constipation. She denies any 
abnormal bleeding since ___.

 
Past Medical History:
1. Depression
2. Anxiety
3. Benign breast Cyst, breast microcalcifications
 
Social History:
___
Family History:
Father: deceased @ ___ bladder cancer, prostate cancer, 
lymphoma
Sister: living ___ breast cancer diagnosed at ___ y/o
Maternal Aunt: deceased lung ___, breast cancer
Paternal Uncle: colon cancer
No known family history of endometrial, ovarian, or cervical 
cancer
 
Physical Exam:
Physical Exam on Discharge:

Gen: no acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous
 
Pertinent Results:
Lab Results on Admission
___ 07:34AM BLOOD WBC-7.9 RBC-4.09 Hgb-12.5 Hct-37.8 MCV-92 
MCH-30.6 MCHC-33.1 RDW-13.3 RDWSD-45.3 Plt ___

Lab Results on Discharge

___ 06:28AM BLOOD WBC-9.6 RBC-3.57* Hgb-11.1* Hct-33.6* 
MCV-94 MCH-31.1 MCHC-33.0 RDW-13.7 RDWSD-47.5* Plt ___
___ 06:28AM BLOOD Neuts-61.1 ___ Monos-7.4 Eos-1.2 
Baso-0.3 Im ___ AbsNeut-5.87 AbsLymp-2.85 AbsMono-0.71 
AbsEos-0.12 AbsBaso-0.03
___ 06:28AM BLOOD Glucose-89 UreaN-11 Creat-0.6 Na-141 
K-4.2 Cl-102 HCO3-28 AnGap-11
___ 06:28AM BLOOD Calcium-8.5 Phos-4.0 Mg-2.0
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing robotic assisted total laparoscopic 
hysterectomy, bilateral salpingo-oopherectomy and bilateral 
sentinel lymph node resection. Please see the operative report 
for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with Po Oxycodone, 
Acetaminophen and Ibuprofen. Her diet was advanced without 
difficulty and she was tolerating a regular diet the night of 
POD #0. On post-operative day #1, her urine output was adequate 
so her Foley catheter was removed and she voided spontaneously.

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
- Buproprion HCL XL 300mg daily
- Fluticasone daily
- Quetiapine 50mg am and pm
- Venlafaxine ER 150mg 2 tabs daily
- Certrizine - 10mg daily
- Colace 100mg BID
- Multivitamin 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not exceed 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
Do not take if having loose stools 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q6H 
Please take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN BREAKTHROUGH 
PAIN 
Do not drink or drive while taking this medication.  
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*30 
Tablet Refills:*0 
5.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
6.  QUEtiapine Fumarate 50 mg PO BID  
7.  Venlafaxine XR 300 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ENDOMETRIAL CANCER 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 
___ weeks 

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  
* If you have staples, they will be removed at your follow-up 
visit.  

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms

 
Followup Instructions:
___